US04804773
4-Hydroxy-4-trifluoromethylcyclohexanone
A solution of 100 mg of 4-hydroxy-4-trifluoromethyl-2,5-cyclohexadien-1-one in 1 mL of absolute ethanol was treated with a few mg of 5% palladium on carbon, hydrogenated in a Parr shaker for one hour under 50 psig of hydrogen, and filtered. Gas chromatographic/mass spectral analysis indicated that the major component of the filtrate was 4-hydroxy-4-trifluoromethylcyclohexanone: mass spectrum (70 eV) m/z (relative intensity) 182 (11, M+), 55 (100), 42 (40).

reactant | 4-hydroxy-4-trifluoromethyl-2,5-cyclohexadien-1-one | 100 mg | OC1(C=CC(C=C1)=O)C(F)(F)F | C7H5F3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-Hydroxy-4-trifluoromethylcyclohexanone | OC1(CCC(CC1)=O)C(F)(F)F | C7H9F3O2
